Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:

___ 03:50PM BLOOD WBC-3.8* RBC-4.56 Hgb-11.5 Hct-36.2 
MCV-79* MCH-25.2* MCHC-31.8* RDW-19.2* RDWSD-53.9* Plt ___
___ 03:50PM BLOOD Neuts-79.7* Lymphs-12.9* Monos-5.8 
Eos-0.3* Baso-0.8 Im ___ AbsNeut-3.03 AbsLymp-0.49* 
AbsMono-0.22 AbsEos-0.01* AbsBaso-0.03
___ 03:50PM BLOOD Glucose-68* UreaN-10 Creat-0.8 Na-133* 
K-5.9* Cl-97 HCO3-23 AnGap-13
___ 03:50PM BLOOD ALT-25 AST-44* AlkPhos-35 TotBili-0.4
___ 03:50PM BLOOD Albumin-3.0* Calcium-8.3* Phos-3.5 Mg-2.0
___ 03:50PM BLOOD proBNP-550*
___ 06:55AM BLOOD calTIBC-229* VitB12-414 Ferritn-29 
TRF-176*
___ 06:55AM BLOOD Iron-53
___ 06:55AM BLOOD TSH-12*
___ 06:55AM BLOOD Free T4-0.7*
___ 03:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:21PM BLOOD Lactate-1.7 K-4.8

MICRO: Urine culture (pending)

IMAGING/STUDIES:
CXR PA/Lat (___):
IMPRESSION:  
No previous images.  Cardiac silhouette is within normal limits
and there is no vascular congestion, pleural effusion, or acute
focal pneumonia.  Hyperexpansion of the lungs with flattening of
the hemidiaphragms could be a manifestation of underlying 
chronic
pulmonary disease. 

TTE (___):
IMPRESSION: marked tricuspid valve prolapse with moderate
tricuspid regurgitation; moderate
pericardial effusion subtending the right heart (no evidence of
cardiac tamponade

DISCHARGE LABS: 
___ CBC: wbc 2.4, H/H 10.3/32.2, plt 187
BMP: Na 134, K 4.7, Cl 101, bicarb 28, BUN/Cr ___

DISCHARGE EXAM: 
GENERAL: Alert, NAD, cachectic
EYES: Anicteric, PERRL
ENT: NC, AT. MMM, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, +BS. no TTP
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
VASC/EXT: 1+ pitting edema in ___ bilaterally- symmetric, 2+ DP 
pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with EOMI
PSYCH: pleasant, appropriate affect

 
Brief Hospital Course:
SUMMARY:
Ms. ___ is a ___ female with history of anorexia 
currently being treated at inpatient center who presents for 
evaluation of bilateral ___ edema and hypotension (baseline SBP 
is 70-80s per patient), found to be hypothyroid.

HOSPITAL COURSE BY PROBLEM:

# Peripheral edema
# Hypothyroidism
# Pericardial effusion without tamponade
Early refeeding syndrome can present with peripheral edema, as 
increased insulin secretion can induce sodium retention. She is 
also hypoalbuminemic, but actually 3 g/dL which is less 
impressive than expected. Given bilateral edema, DVT unlikely 
and patient has no risk factors. Her liver function tests are 
otherwise fairly unremarkable. Her urine protein/Cr ratio is 
within normal limits. TSH was elevated at 12 and free T4 was low 
at 0.7, which is consistent with hypothyroidism. This, in 
addition to her malnutrition, borderline hypoalbuminemia, and 
possible early refeeding syndrome is likely the cause of her 
peripheral edema. Edema should improve with treatment of these 
contributing factors. She had a TTE which shows normal EF, 
moderate tricuspid regurgitation, and a moderate pericardial 
effusion without evidence of cardiac tamponade. Pulsus was 
measured at 5. This was discussed with the cardiology consult 
service. Pericardial effusion may be due to her hypothyroidism 
and malnutrition. It is likely not contributing to her 
peripheral edema. She has no signs or symptoms of infection to 
warrant aspiration or the effusion or other acute management. 
They recommended a repeat TTE in about 4 weeks with cardiology 
follow up as an outpatient. She should return to the hospital if 
she experiences warning signs such as chest pain, shortness of 
breath, or presyncope.

# Hypotension: Suspect that this is related to patient's known 
anorexia nervosa (see discussion below), and patient reports 
that her baseline SBP is low ___ for the past ___ years. For 
completeness, considering other causes of hypotension, patient 
had no signs or symptoms of infection, but a CXR and UA were 
obtained which did not show any signs of infection. Her pulsus 
was 5, so she does not have cardiac tamponade. She has no lab 
findings supportive of adrenal insufficiency. Her Wells score 
was low, so low likelihood of VTE. Orthostatic vital signs were
within normal limits.
 - Blood pressure was at patient's baseline; no need for further 
workup/management

# Anorexia nervosa:
# Severe protein calorie malnutrition:
Patient is currently at <75% ideal body weight.
She was admitted with the eating disorder bundle ordered - 
nutrition consult, eating disorder protocol diet, social work 
consult, psychiatry consult, and monitoring for refeeding 
syndrome. Her home citalopram 40 mg daily was continued.

# Iron deficiency anemia
Iron studies were consistent with iron deficiency anemia. 
Started ferrous sulfate 325 mg PO every other day. She denied 
signs/symptoms of bleeding. She should have an outpatient 
routine screening colonoscopy if she has not had one recently.

# Leukopenia: Likely related to BM changes in anorexia. No need 
for active management, just intermittent monitoring. 

# Insomnia: Patient on melatonin at home, non-formulary. Resumed 
on discharge.

She was transferred from ___ to ___ under a ___ for 
evaluation of lower extremity edema and hypotension. These 
problems have been evaluated and managed.
She is now medically cleared for discharge back to ___.

TRANSITIONAL ISSUES:
[ ] Found to have hypothyroidism on hospitalization. Continue 
levothyroxine 25 mcg PO daily ___ minutes before breakfast (on 
an empty stomach)
[ ] Repeat TSH and free T4 in 6 weeks and adjust levothyroxine 
dose accordingly
[ ] Repeat TTE in 4 weeks to monitor pericardial effusion
[ ] Outpatient cardiology follow up for the pericardial effusion
[ ] Symptomatic management of edema with ACE wraps to the lower 
extremities (compression stockings were too tight and caused 
skin breakdown) and leg elevation 

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cepacol (Sore Throat Lozenge) 1 LOZ PO Q4H:PRN sore throat 
2. Amitriptyline 25 mg PO QHS 
3. Citalopram 40 mg PO DAILY 
4. melatonin 40 mg oral DAILY 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day Disp #*15 Tablet Refills:*0 
2.  Levothyroxine Sodium 25 mcg PO DAILY 
RX *levothyroxine 25 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Amitriptyline 25 mg PO QHS  
5.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q4H:PRN sore throat  
6.  Citalopram 40 mg PO DAILY  
7.  melatonin 40 mg oral DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hypothyroidism
Malnutrition
Pericardial effusion
Anorexia nervosa
Iron deficiency anemia
Lower extremity edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ for evaluation of lower extremity 
edema. Most likely the swelling in your legs is due to a 
combination of malnutrition and hypothyroidism (low-functioning 
thyroid). ___ were started on a medication called levothyroxine 
for your thyroid. The other most important part of the treatment 
is to continue to address your eating disorder. 

___ had an ultrasound of your heart that showed that ___ have 
some fluid around your heart. This is most likely due to 
malnutrition and your low thyroid level may also contribute. The 
cardiologists recommend that ___ have a repeat echocardiogram 
(ultrasound of the heart) in about 4 weeks to monitor the fluid 
around the heart. ___ should also follow up with a cardiologist 
as an outpatient.

___ were also found to have anemia due to low iron levels. ___ 
should start taking an iron pill every other day. ___ should 
have a screening colonoscopy if ___ have not had one recently. 
___ will return to ___ for treatment of your eating disorder. 
Best wishes for your continued healing.

Take care,
Your ___ Care Team
 
Followup Instructions:
___